US07332499B2
2-Bromo-1-fluoro-3-methoxybenzene (200 mg, 0.975 mmol), 1,2-thiazinane 1,1-dioxide (264 mg, 1.951 mmol), copper (62 mg, 0.975 mmol) and potassium carbonate (270 mg, 1.95 1 mmol) were combined and heated to 170 C for 5 hours. After this time, the mixture was suspended in methanol (15 ml) and vortexed for 18 hours. This mixture was filtered through Gelman Acrodisc and evaporated in vacuo. The resulting residue was partitioned between EtOAc (2×10 ml) and aq NH4Cl (5 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo. This residue was purified by column chromatography eluting with a 0-10% EtOAc/CH2Cl2 to give 2-(2-fluoro-6-methoxyphenyl)-1,2-thiazinane 1,1-dioxide. Low resolution mass spectrometry: (M+H+)=260.1. 1H NMR (400 MHz, CDCl3) δ 7.21 (dt, 1H, J=8.1 and 4.3 Hz), 6.69-6.77 (m, 21), 3.88 (s, 3H), 3.75-8.74 (m, 1H), 3.65 (dq, 1H, J=4.6, 6.0 and 14 Hz), 3.24 (dd, 2H, J=5.6 and 7.4 Hz), 3.27 (quin, 2H, J=6.1 Hz) and 1.78-1.90 (m, 2H) ppm.

reactant | 2-Bromo-1-fluoro-3-methoxybenzene | 0.975 mmol, 200 mg | BrC1=C(C=CC=C1OC)F | C7H6BrFO
reactant | 1,2-thiazinane 1,1-dioxide | 1.951 mmol, 264 mg | S1(NCCCC1)(=O)=O | C4H9NO2S
reactant | potassium carbonate | 1 mmol, 270 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 15 ml | CO | CH4O
catalyst | copper | 0.975 mmol, 62 mg | [Cu] | Cu
product | 2-(2-fluoro-6-methoxyphenyl)-1,2-thiazinane 1,1-dioxide | FC1=C(C(=CC=C1)OC)N1S(CCCC1)(=O)=O | C11H14FNO3S
